### PR TITLE
feat: computable short games

### PR DESCRIPTION
**Pull request by tristan-f-r**
Having trouble with equality in `toPGame_identical`, so I'm wary of adding lemmas about `FGame.toIGame`'s correctness.

This introduces `FGame` on top of `SGame` from #41 as the analogue of `IGame`. Computable short games are motivated both by a counterexample context (integration with Plausible), and as a formally correct REPL for combintorial games.

### CODE REVIEW

File: CombinatorialGames/Game/Computability/FGame.lean [hunk 1]
```diff
@@ -0,0 +1,418 @@
...
+def moveRight : ∀ g : SGame, Fin g.RightMoves → SGame
+  | mk _ _ _ g => g
+
+@[simp] theorem leftMoves_mk (m n f g) : (mk m n f g).LeftMoves = m := rfl
+@[simp] theorem rightMoves_mk (m n f g) : (mk m n f g).RightMoves = n := rfl
+@[simp] theorem moveLeft_mk (m n f g) : (mk m n f g).moveLeft = f := rfl
+@[simp] theorem moveRight_mk (m n f g) : (mk m n f g).moveRight = g := rfl
+
+/-- A well-founded relation on `SGame`.
+While this doesn't have an equivalent in `PGame`, this is necessary to do
```
Comment (vihdzp) [inline CombinatorialGames/Game/Computability/FGame.lean]: What do you mean by this? I think `PGame.IsOption` doesn't exist (I minimized the `PGame` content to its bare minimum), but it reasonably could exist (and IIRC it does in Mathlib).

File: CombinatorialGames/Game/Computability/FGame.lean [hunk 2]
```diff
@@ -0,0 +1,418 @@
...
+
+instance instDecidableEq : ∀ x y : SGame, Decidable (x = y)
+  | mk m n f g, mk m' n' f' g' => if h : m = m' ∧ n = n' then by
+    have : ∀ a b, Decidable (f a = f' b) := fun a b ↦ instDecidableEq ..
+    have : ∀ a b, Decidable (g a = g' b) := fun a b ↦ instDecidableEq ..
+    rw [mk.injEq, Fin.heq_fun_iff h.1, Fin.heq_fun_iff h.2]
+    infer_instance
+  else .isFalse (by simp_all)
+
+/-- The identical relation on short games. See `SGame.Identical`. -/
```
Comment (vihdzp) [inline CombinatorialGames/Game/Computability/FGame.lean]: I think you mean:
```suggestion
/-- The identical relation on short games. See `PGame.Identical`. -/
```

File: CombinatorialGames/Game/Computability/FGame.lean [hunk 3]
```diff
@@ -0,0 +1,418 @@
...
+def Identical : SGame.{u} → SGame.{u} → Prop
+  | mk _ _ xL xR, mk _ _ yL yR =>
+      Relator.BiTotal (fun i j ↦ Identical (xL i) (yL j)) ∧
+      Relator.BiTotal (fun i j ↦ Identical (xR i) (yR j))
+
+@[inherit_doc] scoped infix:50 " ≡ " => SGame.Identical
+
+theorem identical_iff : ∀ {x y : SGame}, x ≡ y ↔
+    Relator.BiTotal (x.moveLeft · ≡ y.moveLeft ·) ∧ Relator.BiTotal (x.moveRight · ≡ y.moveRight ·)
+  | mk .., mk .. => Iff.rfl
```
Comment (vihdzp) [inline CombinatorialGames/Game/Computability/FGame.lean]:
```suggestion
  | mk .., mk .. => .rfl
```

File: CombinatorialGames/Game/Computability/FGame.lean [hunk 4]
```diff
@@ -0,0 +1,418 @@
...
+/-- If `x ≡ y`, then a right move of `x` is identical to some right move of `y`. -/
+theorem Identical.moveRight : ∀ {x y}, x ≡ y → ∀ i, ∃ j, x.moveRight i ≡ y.moveRight j
+  | mk .., mk .., ⟨_, hr⟩ => hr.1
+
+/-- If `x ≡ y`, then a right move of `y` is identical to some right move of `x`. -/
+theorem Identical.moveRight_symm : ∀ {x y}, x ≡ y → ∀ i, ∃ j, x.moveRight j ≡ y.moveRight i
+  | mk .., mk .., ⟨_, hr⟩ => hr.2
+
+instance Identical.instDecidable (a b) : Decidable (a ≡ b) := by
+  have : DecidableRel (a.moveLeft · ≡ b.moveLeft ·) := fun c d ↦ Identical.instDecidable ..
```
Comment (vihdzp) [inline CombinatorialGames/Game/Computability/FGame.lean:143]: Since this builds data, shouldn't it be:
```suggestion
  let : DecidableRel (a.moveLeft · ≡ b.moveLeft ·) := fun c d ↦ Identical.instDecidable ..
```

File: CombinatorialGames/Game/Computability/FGame.lean [hunk 5]
```diff
@@ -0,0 +1,418 @@
...
+instance : WellFoundedRelation SGame := ⟨_, isOption_wf⟩
+
+macro "sgame_wf" : tactic =>
+  `(tactic| all_goals solve_by_elim
+    [Prod.Lex.left, Prod.Lex.right, PSigma.Lex.left, PSigma.Lex.right,
+    IsOption.moveLeft, IsOption.moveRight] )
+
+instance instDecidableEq : ∀ x y : SGame, Decidable (x = y)
+  | mk m n f g, mk m' n' f' g' => if h : m = m' ∧ n = n' then by
+    have : ∀ a b, Decidable (f a = f' b) := fun a b ↦ instDecidableEq ..
```
Comment (vihdzp) [inline CombinatorialGames/Game/Computability/FGame.lean:91]: Likewise here.
```suggestion
    let : ∀ a b, Decidable (f a = f' b) := fun a b ↦ instDecidableEq ..
```

File: CombinatorialGames/Game/Computability/FGame.lean [hunk 6]
```diff
@@ -0,0 +1,418 @@
...
+end SGame
+
+/-! ### Game moves -/
+
+/-- Short games up to identity.
+
+`FGame` uses the set-theoretic notion of equality on short games,
+similarly to how `IGame` is defined on top of `PGame`.
+
+Here, we have the distinct advantage of being able to use finsets as our
```
Comment (vihdzp) [inline CombinatorialGames/Game/Computability/FGame.lean:169]: This is really smart!

File: CombinatorialGames/Game/Computability/FGame.lean [hunk 7]
```diff
@@ -0,0 +1,418 @@
...
+    exact ⟨b, mk_eq_mk.mp hb.symm⟩
+  · have := Finset.mem_image_of_mem mk (show y.moveRight i ∈ Finset.univ.image y.moveRight by simp)
+    rw [Finset.image_image, ← hr] at this
+    obtain ⟨b, -, hb⟩ := Finset.mem_image.mp this
+    exact ⟨b, mk_eq_mk.mp hb⟩
+
+/-- `IsOption x y` means that `x` is either a left or a right move for `y`. -/
+@[aesop simp]
+def IsOption (x y : FGame) : Prop :=
+  x ∈ y.leftMoves ∨ x ∈ y.rightMoves
```
Comment (vihdzp) [inline CombinatorialGames/Game/Computability/FGame.lean:249]: Small golf (these predicates are def-eq)
```suggestion
  x ∈ y.leftMoves ∪ y.rightMoves
```

File: CombinatorialGames/Game/Computability/FGame.lean [hunk 8]
```diff
@@ -0,0 +1,418 @@
...
+
+theorem self_notMem_leftMoves (x : FGame) : x ∉ x.leftMoves :=
+  fun hx ↦ IsOption.irrefl x (.of_mem_leftMoves hx)
+
+theorem self_notMem_rightMoves (x : FGame) : x ∉ x.rightMoves :=
+  fun hx ↦ IsOption.irrefl x (.of_mem_rightMoves hx)
+
+/-- Construct a `FGame` from its left and right lists. This is an auxiliary definition
+used to define the more general `FGame.ofFinsets`. -/
+def ofLists (s t : List FGame.{u}) : FGame.{u} :=
```
Comment (vihdzp) [inline CombinatorialGames/Game/Computability/FGame.lean:277]: Can this provide any computational advantage over `ofFinsets`? If so, maybe we should treat it as more than just an auxiliary definition!

File: CombinatorialGames/Game/Computability/FGame.lean [hunk 9]
```diff
@@ -0,0 +1,418 @@
...
+termination_by (a, b)
+decreasing_by sgame_wf
+
+/-- Converts an SGame to a PGame -/
+def toPGame (x : SGame) : PGame := .mk _ _ (toPGame <| x.moveLeft ·) (toPGame <| x.moveRight ·)
+termination_by x
+decreasing_by sgame_wf
+
+@[simp]
+theorem toPGame_leftMoves {x : SGame} : x.toPGame.LeftMoves = Fin x.LeftMoves := by
```
Comment (vihdzp) [inline CombinatorialGames/Game/Computability/FGame.lean]:
```suggestion
theorem leftMoves_toPGame {x : SGame} : x.toPGame.LeftMoves = Fin x.LeftMoves := by
```

File: CombinatorialGames/Game/Computability/FGame.lean [hunk 10]
```diff
@@ -0,0 +1,418 @@
...
+  unfold toPGame; rfl
+
+@[simp]
+theorem toPGame_rightMoves {x : SGame} : x.toPGame.RightMoves = Fin x.RightMoves := by
```
Comment (vihdzp) [inline CombinatorialGames/Game/Computability/FGame.lean]:
```suggestion
theorem rightMoves_toPGame {x : SGame} : x.toPGame.RightMoves = Fin x.RightMoves := by
```

File: CombinatorialGames/Game/Computability/FGame.lean [hunk 11]
```diff
@@ -0,0 +1,418 @@
...
+  unfold ofLists leftMoves rightMoves FGame.mk
+  generalize hs : s.get = sf
+  generalize ht : t.get = tf
+  induction sf using Quotient.induction_on_pi
+  induction tf using Quotient.induction_on_pi
+  rw [Quotient.finLiftOn₂_mk, Quotient.lift_mk]
+  aesop (add simp [hs.symm, ht.symm])
+
+@[simp]
+theorem ofLists_leftMoves {s t : List FGame} : (ofLists s t).leftMoves = s.toFinset :=
```
Comment (vihdzp) [inline CombinatorialGames/Game/Computability/FGame.lean]:
```suggestion
theorem leftMoves_ofLists {s t : List FGame} : (ofLists s t).leftMoves = s.toFinset :=
```

File: CombinatorialGames/Game/Computability/FGame.lean [hunk 12]
```diff
@@ -0,0 +1,418 @@
...
+  ofLists_moves.1
+
+@[simp]
+theorem ofLists_rightMoves {s t : List FGame} : (ofLists s t).rightMoves = t.toFinset :=
```
Comment (vihdzp) [inline CombinatorialGames/Game/Computability/FGame.lean]:
```suggestion
theorem rightMoves_ofLists {s t : List FGame} : (ofLists s t).rightMoves = t.toFinset :=
```

File: CombinatorialGames/Game/Computability/FGame.lean [hunk 13]
```diff
@@ -0,0 +1,418 @@
+/-
+Copyright (c) 2025 Violeta Hernández Palacios. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Violeta Hernández Palacios, Kim Morrison
```
Comment (vihdzp) [inline CombinatorialGames/Game/Computability/FGame.lean]: Since you wrote all of this `FGame` material, you should probably add yourself as an author!

File: CombinatorialGames/Game/Computability/FGame.lean [hunk 14]
```diff
@@ -0,0 +1,418 @@
...
+-/
+import Mathlib.Data.Countable.Small
+import Mathlib.Data.Fintype.Quotient
+import Mathlib.Data.Multiset.Sort
+
+import CombinatorialGames.Game.Short
+import CombinatorialGames.Mathlib.Finlift
```
Comment (vihdzp) [inline CombinatorialGames/Game/Computability/FGame.lean]: I think the convention is to do this
```suggestion
import CombinatorialGames.Game.Short
import CombinatorialGames.Mathlib.Finlift
import Mathlib.Data.Countable.Small
import Mathlib.Data.Fintype.Quotient
import Mathlib.Data.Multiset.Sort
```

File: CombinatorialGames/Game/Computability/FGame.lean [hunk 15]
```diff
@@ -0,0 +1,418 @@
...
+
+/-!
+# Computably short games
+
+A combinatorial game is `Short` if it has only finitely many subpositions. In particular, this means
+there is a finite set of moves at every point. The theorem proving definition of this is available
+at `IGame.Short`, but its associated definitions are noncomputable. Here, we provide a computable
+short games.
```
Comment (vihdzp) [inline CombinatorialGames/Game/Computability/FGame.lean]: This sentence seems a bit awkwardly written? I think you might have some typos.

File: CombinatorialGames/Game/Computability/FGame.lean [hunk 16]
```diff
@@ -0,0 +1,418 @@
...
+  have : DecidableRel (a.moveRight · ≡ b.moveLeft ·) := fun c d ↦ Identical.instDecidable ..
+  have : DecidableRel (a.moveRight · ≡ b.moveRight ·) := fun c d ↦ Identical.instDecidable ..
+  rw [identical_iff]
+  unfold Relator.BiTotal Relator.LeftTotal Relator.RightTotal
+  infer_instance
+termination_by (a, b)
+decreasing_by sgame_wf
+
+/-- Converts an SGame to a PGame -/
+def toPGame (x : SGame) : PGame := .mk _ _ (toPGame <| x.moveLeft ·) (toPGame <| x.moveRight ·)
```
Comment (vihdzp) [inline CombinatorialGames/Game/Computability/FGame.lean]: Do we need this, or can we skip straight to `IGame`? `PGame` isn't useful mathematically or computationally, so I think we're better off pretending it doesn't exist.

File: CombinatorialGames/Game/Computability/FGame.lean [hunk 17]
```diff
@@ -0,0 +1,418 @@
...
+  `(tactic| all_goals solve_by_elim
+    [Prod.Lex.left, Prod.Lex.right, PSigma.Lex.left, PSigma.Lex.right,
+    IsOption.moveLeft, IsOption.moveRight] )
+
+instance instDecidableEq : ∀ x y : SGame, Decidable (x = y)
+  | mk m n f g, mk m' n' f' g' => if h : m = m' ∧ n = n' then by
+    have : ∀ a b, Decidable (f a = f' b) := fun a b ↦ instDecidableEq ..
+    have : ∀ a b, Decidable (g a = g' b) := fun a b ↦ instDecidableEq ..
+    rw [mk.injEq, Fin.heq_fun_iff h.1, Fin.heq_fun_iff h.2]
+    infer_instance
```
Comment (vihdzp) [inline CombinatorialGames/Game/Computability/FGame.lean]: a) use `let` for data instead of `have`
b) tactics such as `rw` often break decidability, use `decidable_of_iff` instead
```suggestion
  | mk m n f g, mk m' n' f' g' => if h : m = m' ∧ n = n' then
    let : ∀ a b, Decidable (f a = f' b) := fun a b ↦ instDecidableEq ..
    let : ∀ a b, Decidable (g a = g' b) := fun a b ↦ instDecidableEq ..
    decidable_of_iff ((m = m' ∧ n = n' ∧ (∀ i, f i = f' ⟨i, _⟩) ∧ ∀ i, g i = g' ⟨i, _⟩)) <| by
      rw [mk.injEq, Fin.heq_fun_iff h.1, Fin.heq_fun_iff h.2]
```

File: CombinatorialGames/Game/Computability/FGame.lean [hunk 18]
```diff
@@ -0,0 +1,418 @@
...
+  · exact IHr _
+
+instance : WellFoundedRelation SGame := ⟨_, isOption_wf⟩
+
+macro "sgame_wf" : tactic =>
+  `(tactic| all_goals solve_by_elim
+    [Prod.Lex.left, Prod.Lex.right, PSigma.Lex.left, PSigma.Lex.right,
+    IsOption.moveLeft, IsOption.moveRight] )
+
+instance instDecidableEq : ∀ x y : SGame, Decidable (x = y)
```
Comment (vihdzp) [inline CombinatorialGames/Game/Computability/FGame.lean]:
```suggestion
instance : DecidableEq SGame
```

File: CombinatorialGames/Game/Computability/FGame.lean [hunk 19]
```diff
@@ -0,0 +1,418 @@
...
+  | mk .., mk .., ⟨_, hr⟩ => hr.2
+
+instance Identical.instDecidable (a b) : Decidable (a ≡ b) := by
+  have : DecidableRel (a.moveLeft · ≡ b.moveLeft ·) := fun c d ↦ Identical.instDecidable ..
+  have : DecidableRel (a.moveLeft · ≡ b.moveRight ·) := fun c d ↦ Identical.instDecidable ..
+  have : DecidableRel (a.moveRight · ≡ b.moveLeft ·) := fun c d ↦ Identical.instDecidable ..
+  have : DecidableRel (a.moveRight · ≡ b.moveRight ·) := fun c d ↦ Identical.instDecidable ..
+  rw [identical_iff]
+  unfold Relator.BiTotal Relator.LeftTotal Relator.RightTotal
+  infer_instance
```
Comment (vihdzp) [inline CombinatorialGames/Game/Computability/FGame.lean]: This has the same problems as the previous instance. I think we should add these to Mathlib:
```lean 4
instance {α β : Type*} (r : α → β → Prop) [H : Decidable (∀ a, ∃ b, r a b)] :
    Decidable (Relator.LeftTotal r) := H
instance {α β : Type*} (r : α → β → Prop) [H : Decidable (∀ b, ∃ a, r a b)] :
    Decidable (Relator.RightTotal r) := H

instance {α β : Type*} (r : α → β → Prop)
    [H₁ : Decidable (∀ a, ∃ b, r a b)] [H : Decidable (∀ b, ∃ a, r a b)] :
    Decidable (Relator.BiTotal r) :=
  inferInstanceAs (Decidable (_ ∧ _))
```
Then, this code can be cleaned up as 
```suggestion
instance Identical.instDecidable (a b) : Decidable (a ≡ b) :=
  let : DecidableRel (a.moveLeft · ≡ b.moveLeft ·) := fun c d ↦ Identical.instDecidable ..
  let : DecidableRel (a.moveLeft · ≡ b.moveRight ·) := fun c d ↦ Identical.instDecidable ..
  let : DecidableRel (a.moveRight · ≡ b.moveLeft ·) := fun c d ↦ Identical.instDecidable ..
  let : DecidableRel (a.moveRight · ≡ b.moveRight ·) := fun c d ↦ Identical.instDecidable ..
  decidable_of_iff' _ identical_iff
```

File: CombinatorialGames/Game/Computability/FGame.lean [hunk 20]
```diff
@@ -0,0 +1,418 @@
...
+  constructor
+  · constructor
+    · obtain ⟨⟨h, -⟩, -⟩ := h
+      intro y
+      obtain ⟨b, hb⟩ := h (toPGame_leftMoves.mp y)
+      use toPGame_leftMoves.mpr b
+      dsimp
+      sorry
+    · sorry
+  · sorry
```
Comment (vihdzp) [inline CombinatorialGames/Game/Computability/FGame.lean]: You can avoid those horrible casts by rewriting the definition of `toPGame` from the very start:
```suggestion
  rw [toPGame, toPGame, PGame.identical_iff]
  refine ⟨⟨?_, ?_⟩, ⟨?_, ?_⟩⟩ <;> intro k
  on_goal 1 => obtain ⟨b, hb⟩ := h.1.1 k
  on_goal 2 => obtain ⟨b, hb⟩ := h.1.2 k
  on_goal 3 => obtain ⟨b, hb⟩ := h.2.1 k
  on_goal 4 => obtain ⟨b, hb⟩ := h.2.2 k
  all_goals exact ⟨b, toPGame_identical hb⟩
termination_by (x, y)
decreasing_by sgame_wf
```

File: CombinatorialGames/Game/Computability/FGame.lean [hunk 21]
```diff
@@ -0,0 +1,418 @@
...
+
+/-- Short games up to identity.
+
+`FGame` uses the set-theoretic notion of equality on short games,
+similarly to how `IGame` is defined on top of `PGame`.
+
+Here, we have the distinct advantage of being able to use finsets as our
+backing left and right sets over `IGame`'s small sets.
+-/
+def FGame : Type (u + 1) :=
```
Comment (vihdzp) [inline CombinatorialGames/Game/Computability/FGame.lean]: We don't have a universe bump anymore!
```suggestion
def FGame : Type u :=
```

File: CombinatorialGames/Game/Computability/FGame.lean [hunk 22]
```diff
@@ -0,0 +1,418 @@
...
+def ofFinsets (s t : Finset FGame) : FGame :=
+  Quotient.liftOn₂ s.1 t.1 ofLists fun a₁ b₁ a₂ b₂ ha hb ↦ by
+    rw [← Quotient.eq_iff_equiv, Multiset.quot_mk_to_coe, Multiset.quot_mk_to_coe] at ha hb
+    simp_rw [FGame.ext_iff, ofLists_leftMoves, ofLists_rightMoves, ← List.toFinset_coe]
+    exact ⟨congrArg Multiset.toFinset ha, congrArg Multiset.toFinset hb⟩
+
+@[inherit_doc] notation "{" s " | " t "}ꟳ" => ofFinsets s t
+
+private def moves_ofFinsets {s t : Finset FGame} :
+    {s|t}ꟳ.leftMoves = s ∧ {s|t}ꟳ.rightMoves = t := by
```
Comment (vihdzp) [inline CombinatorialGames/Game/Computability/FGame.lean]: Matching our notation elsewhere:
```suggestion
    {s | t}ꟳ.leftMoves = s ∧ {s | t}ꟳ.rightMoves = t := by
```

File: CombinatorialGames/Game/Computability/FGame.lean [hunk 23]
```diff
@@ -0,0 +1,418 @@
...
+  unfold ofFinsets
+  generalize hs : s.val = sf
+  generalize ht : t.val = tf
+  induction sf, tf using Quotient.inductionOn₂
+  rw [Multiset.quot_mk_to_coe] at hs ht
+  simp_rw [Multiset.quot_mk_to_coe, Multiset.lift_coe]
+  simp [List.toFinset, ← hs, ← ht]
+
+@[simp]
+theorem leftMoves_ofFinsets {s t : Finset FGame} : {s|t}ꟳ.leftMoves = s := moves_ofFinsets.1
```
Comment (vihdzp) [inline CombinatorialGames/Game/Computability/FGame.lean]:
```suggestion
theorem leftMoves_ofFinsets {s t : Finset FGame} : {s | t}ꟳ.leftMoves = s := moves_ofFinsets.1
```

File: CombinatorialGames/Game/Computability/FGame.lean [hunk 24]
```diff
@@ -0,0 +1,418 @@
...
+
+@[simp]
+theorem rightMoves_ofFinsets {s t : Finset FGame} : {s|t}ꟳ.rightMoves = t := moves_ofFinsets.2
```
Comment (vihdzp) [inline CombinatorialGames/Game/Computability/FGame.lean]:
```suggestion
theorem rightMoves_ofFinsets {s t : Finset FGame} : {s | t}ꟳ.rightMoves = t := moves_ofFinsets.2
```

File: CombinatorialGames/Game/Computability/FGame.lean [hunk 25]
```diff
@@ -0,0 +1,418 @@
...
+-- so we avoid putting it in pub space.
+private instance _root_.Std.Format.instRepr : Repr Std.Format := ⟨fun x _ => x⟩
+
+private unsafe def Multiset.repr_or_emptyset {α : Type*} [Repr α] : Repr (Multiset α) where
+  reprPrec g n := if g.card = 0 then "∅" else Multiset.instRepr.reprPrec g n
+
+-- TODO: can we hook into delab?
+private unsafe def instRepr_aux : FGame → Std.Format :=
+  fun g ↦ "{" ++
+    Multiset.repr_or_emptyset.reprPrec (g.leftMoves.val.map instRepr_aux) 0 ++ "|" ++
```
Comment (vihdzp) [inline CombinatorialGames/Game/Computability/FGame.lean]: I think this looks nicer, but feel free to use whichever.
```suggestion
    Multiset.repr_or_emptyset.reprPrec (g.leftMoves.val.map instRepr_aux) 0 ++ " | " ++
```

File: CombinatorialGames/Game/Computability/FGame.lean [hunk 26]
```diff
@@ -0,0 +1,418 @@
...
+/-- Discharges proof obligations of the form `⊢ Subposition ..` arising in termination proofs
+of definitions using well-founded recursion on `FGame`. -/
+macro "fgame_wf" : tactic =>
+  `(tactic| all_goals solve_by_elim (maxDepth := 8)
+    [Prod.Lex.left, Prod.Lex.right, PSigma.Lex.left, PSigma.Lex.right,
+    Subposition.of_mem_leftMoves, Subposition.of_mem_rightMoves, Subposition.trans, Subtype.prop] )
+
+/-! ### Basic Games -/
+
+/-- The game `0 = {∅ | ∅}ᴵ`. -/
```
Comment (vihdzp) [inline CombinatorialGames/Game/Computability/FGame.lean]:
```suggestion
/-- The game `0 = {∅ | ∅}ꟳ`. -/
```

File: CombinatorialGames/Game/Computability/FGame.lean [hunk 27]
```diff
@@ -0,0 +1,418 @@
...
+instance : Zero FGame := ⟨{∅ | ∅}ꟳ⟩
+
+theorem zero_def : 0 = {∅ | ∅}ꟳ := rfl
+
+@[simp, game_cmp] theorem leftMoves_zero : leftMoves 0 = ∅ := leftMoves_ofFinsets ..
+@[simp, game_cmp] theorem rightMoves_zero : rightMoves 0 = ∅ := rightMoves_ofFinsets ..
+
+/-- The game `1 = {{0} | ∅}ᴵ`. -/
```
Comment (vihdzp) [inline CombinatorialGames/Game/Computability/FGame.lean]:
```suggestion
/-- The game `1 = {{0} | ∅}ꟳ`. -/
```

File: CombinatorialGames/Game/Computability/FGame.lean [hunk 28]
```diff
@@ -0,0 +1,418 @@
...
+instance : WellFoundedRelation FGame := ⟨Subposition, instIsWellFoundedSubposition.wf⟩
+
+/-- Discharges proof obligations of the form `⊢ Subposition ..` arising in termination proofs
+of definitions using well-founded recursion on `FGame`. -/
+macro "fgame_wf" : tactic =>
+  `(tactic| all_goals solve_by_elim (maxDepth := 8)
+    [Prod.Lex.left, Prod.Lex.right, PSigma.Lex.left, PSigma.Lex.right,
+    Subposition.of_mem_leftMoves, Subposition.of_mem_rightMoves, Subposition.trans, Subtype.prop] )
+
+/-! ### Basic Games -/
```
Comment (vihdzp) [inline CombinatorialGames/Game/Computability/FGame.lean]:
```suggestion
/-! ### Basic games -/
```

File: CombinatorialGames/Game/Computability/FGame.lean (hunk 1 above)
Comment (tristan-f-r) [reply CombinatorialGames/Game/Computability/FGame.lean]: You're right :+1: I believe I intended to say that it doesn't have a formalized equivalent, and I should change it to resemble that.

File: CombinatorialGames/Game/Computability/FGame.lean (hunk 16 above)
Comment (tristan-f-r) [reply CombinatorialGames/Game/Computability/FGame.lean]: `PGame` _might_ have computational use. I want to see if I can `Plausible` on `IGame` by:
1. Generating `FGame`s
2. Passing `FGame`s through the computable `toIGame`

that way someone doesn't have to convert all of their statements to work on `FGame` to get plausibility. However, I have not tested that yet, so we can drop this for now :+1:

File: CombinatorialGames/Game/Computability/FGame.lean (hunk 8 above)
Comment (tristan-f-r) [reply CombinatorialGames/Game/Computability/FGame.lean:277]: I think the only benefit that has is allowing direct control of the underlying (VM) ordering of leftMoves/rightMoves, but you can get the same control using `List.toFinset` in `ofFinsets`.

File: CombinatorialGames/Game/Computability/FGame.lean (hunk 3 above)
Comment (tristan-f-r) [reply CombinatorialGames/Game/Computability/FGame.lean]: I'll also change that here:

https://github.com/vihdzp/combinatorial-games/blob/627b3ecb25bb4ce1bff9a5e6445463c229603bc8/CombinatorialGames/Game/IGame.lean#L143

File: CombinatorialGames/Game/Computability/FGame.lean (hunk 7 above)
Comment (tristan-f-r) [reply CombinatorialGames/Game/Computability/FGame.lean:249]: They're def-eq for Set, but not for Finset - `_ ∈ _ ∨ _` is the normal form for Finset (see [`Finset#mem_union`](https://github.com/leanprover-community/mathlib4/blob/98e42c440af63586ea077289dbe8eadd1dbc5fe2/Mathlib/Data/Finset/Lattice/Basic.lean#L97-L99)) (and [`Multiset#mem_ndunion`](https://github.com/leanprover-community/mathlib4/blob/98e42c440af63586ea077289dbe8eadd1dbc5fe2/Mathlib/Data/Multiset/FinsetOps.lean#L141-L143))

**Review by vihdzp — APPROVED** [review]

**Comment by vihdzp** [comment]
This is really interesting! I don't want to hold it up any longer than necessary.
